data/oMe_Silver.jsonl
{"reaction_id": "NR-032_1-c1occc1_2-CC","name": "Büchner-Curtius-Schlotterbeck Reaction","level": "medium","reactants_smiles": ["C(=O)(c1occc1)(CC)","C=[N+]=[N-]"],"products_smiles": ["C(=O)(CC)(Cc1occc1)"],"conditions": "","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(C[N+]#N)(c1occc1)(CC)","step_weight": 0,"rationale": "The azide nitrogen lone pair attacks the electrophilic carbonyl carbon, whose partial positive charge is enhanced by the electron-withdrawing oxygen, forming a tetrahedral intermediate stabilized by resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(CC)(Cc1occc1)","step_weight": 0,"rationale": "Thermal conditions promote a 1,2-shift as nitrogen gas leaves, driven by the stability of the carbonyl and relief of electron deficiency at the migrating carbon."}],"description": "The reaction proceeds via nucleophilic addition of an organoazide to the carbonyl, forming a tetrahedral intermediate. Under the conditions, a 1,2-shift occurs, driven by nitrogen extrusion and formation of a more stable carbonyl product with rearranged substituents."}
{"reaction_id": "NR-330_1-C_2-C(=O)OC_3-C(=O)C_4-C#N_5-C(F)(F)F_6-c1ccccc1C_7-OC(C)(C)C_8-C1CCCCC1","level": "medium","name": "Rauhut-Currier Reaction","reactants_smiles": ["CC(=O)C=C(C(=O)OC)C(=O)C","OC(C)(C)CC(=O)C(c1ccccc1C)=C(C(F)(F)F)C#N","P(C1CCCCC1)(C1CCCCC1)C1CCCCC1"],"products_smiles": ["CC(=O)C(=C(C(=O)OC)C(=O)C)C(C#N)(C(F)(F)F)C(c1ccccc1C)C(=O)OC(C)(C)C"],"conditions": "Nucleophilic Catalyst (e.g., P(n-Bu)3)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC([O-])=CC(C(=O)OC)(C(=O)C)[P+](C1CCCCC1)(C1CCCCC1)C1CCCCC1","step_weight": 0,"rationale": "The phosphine's lone pair attacks the β-position of the electron-deficient alkene, favored by conjugation with the carbonyl, forming a zwitterionic intermediate stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(=O)C(C(C(=O)OC)(C(=O)C)([P+](C1CCCCC1)(C1CCCCC1)C1CCCCC1))C(C#N)(C(F)(F)F)C(c1ccccc1C)=C([O-])OC(C)(C)C","step_weight": 0,"rationale": "The nucleophilic carbon in the phosphonium enolate intermediate attacks the β-position of the second activated alkene, driven by its strong electron-withdrawing carbonyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC([O-])=C(C(C(=O)OC)(C(=O)C)([P+](C1CCCCC1)(C1CCCCC1)C1CCCCC1))C(C#N)(C(F)(F)F)C(c1ccccc1C)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Proton transfer occurs to stabilize the alkoxide and generate a neutral intermediate, facilitated by the basicity of the alkoxide and the acidity of nearby protons."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC(=O)C(=C(C(=O)OC)C(=O)C)C(C#N)(C(F)(F)F)C(c1ccccc1C)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Elimination of the phosphine regenerates the catalyst, driven by formation of a conjugated enone system, which is thermodynamically favored due to extended π-delocalization."}],"description": "A nucleophilic phosphine catalyst activates an electron-deficient alkene toward conjugate addition, enabling C–C bond formation between two Michael acceptors. Subsequent proton transfer and elimination regenerate the catalyst, yielding the conjugated enone product under mild conditions with high atom economy."}
